US07288655B2
4-Carboxy-3-(2-methoxypyrimidin-5-yl)butanoic acid
2-Methoxypyrimidine-5-carbaldehyde (see J. Heterocycl. Chem. (1991) 28, 1281) (9.00 kg) was reacted with ethylacetoacetate (17.8 kg) in the presence of piperidine (555 g) in propan-2-ol (90 L) at 50° C. for several hours, followed by a hydrolysis with aqueous sodium hydroxide (24.2 kg of 46% NaOH in 30 L of water) at 0° C. Phase separation of the resulting mixture, acidification of the aqueous layer with concentrated hydrochloric acid (23.2 kg) to pH 2-3 and crystallization afforded the title compound (12.7 kg; 85% yield).

reactant | 2-Methoxypyrimidine-5-carbaldehyde | 9.00 kg | COC1=NC=C(C=N1)C=O | C6H6N2O2
reactant | ethylacetoacetate | 17.8 kg | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | piperidine | 555 g | N1CCCCC1 | C5H11N
reactant | sodium hydroxide | 30 L, 24.2 kg | [OH-].[Na+]
reactant | propan-2-ol | 90 L | CC(C)O | C3H8O
product | 4-Carboxy-3-(2-methoxypyrimidin-5-yl)butanoic acid | 12.7 kg, 85% yield | C(=O)(O)CC(CC(=O)O)C=1C=NC(=NC1)OC | C10H12N2O5
